US07214673B2
2-Methyl-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride
Combine 5-methyl-2-(2-nitro-phenylamino)-benzonitrile (4.03 g, 15.91 mmol), tin(II) chloride dihydrate (10.77 g, 47.74 mmol), 5N HCl (65 ml), and ethanol (40.0 ml). Stir the mixture at reflux for 7 hours then cool it to ambient temperature and chill it in the refrigerator overnight. Remove the resulting precipitate by vacuum filtration. Place the precipitate in ethanol (100.0 ml) and 5N HCl (20.0 ml) and heat at reflux for 19 hours. Cool the reaction mixture to ambient temperature then chill it in the refrigerator. Filter off the resulting precipitate by vacuum filtration and dry it in a vacuum oven to give 2.59 g (63%) of an orange solid: mass spectrum (ion spray): m/z=224.0 (M+1).

reactant | 5-methyl-2-(2-nitro-phenylamino)-benzonitrile | 15.91 mmol, 4.03 g | CC=1C=CC(=C(C#N)C1)NC1=C(C=CC=C1)[N+](=O)[O-] | C14H11N3O2
reactant | tin(II) chloride dihydrate | 47.74 mmol, 10.77 g | O.O.[Sn](Cl)Cl
reactant | HCl | 5N, 65 ml | Cl | ClH
solvent | ethanol | 40.0 ml | C(C)O | C2H6O
product | 2-Methyl-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride | 2.59 g, 63% | Cl.CC1=CC2=C(NC3=C(N=C2N)C=CC=C3)C=C1 | InChI=1S/C14H13N3.ClH/c1-9-6-7-11-10(8-9)14(15)17-13-5-3-2-4-12(13)16-11;/h2-8,16H,1H3,(H2,15,17);1H
